US06573289B1
Production of 1-(6-Methoxynaphthalen-2-yl)-2-methyl-1-(thiazol-5-yl)-1-propanol
To a solution of 6-methoxynaphthalen-2-ylmagnesium bromide in THF (1.3 M; 10 ml) was added dropwise a solution of 5-formylthiazole (1.70 g) in THF (10 ml) under ice cooling, and the mixture was stirred for 20 min under ice cooling. The mixture was diluted with saturated aqueous solution of ammonium chloride, extracted with ethyl acetate, washed with saturated sodium chloride solution and dried. The solvent was distilled off and the residue was purified by silica gel chromatography (eluent, hexane:ethyl acetate=2:1→1:1) to give the titled compound (3.47 g) as a colorless powder.

reactant | 6-methoxynaphthalen-2-ylmagnesium bromide | COC=1C=C2C=CC(=CC2=CC1)[Mg]Br
reactant | 5-formylthiazole | 1.70 g | C(=O)C1=CN=CS1 | C4H3NOS
reactant | THF | 1.3 M, 10 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-(6-Methoxynaphthalen-2-yl)-2-methyl-1-(thiazol-5-yl)-1-propanol | 3.47 g | COC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C1=CN=CS1 | C18H19NO2S
